US04507297
To a methylene chloride solution (100 ml) containing tert-butoxycarbonyl-L-leucine monohydrate (9.96 g) and N-hydroxy succinimide (4.6 g) was added dropwise a methylene chloride solution (50 ml) of N,N'-dicyclohexylcarbodiimide (8.24 g) with a length of time for 1 hour under cooling with ice. After being stirred at room temperature for 4 hours, the reaction mixture was again cooled with ice, and a methylene chloride solution (50 ml) of 1-(diphenylmethyl)piperazine (10.08 g) was added dropwise in 20 minutes. The mixture was stirred overnight at room temperature. Following the removal of the precipitate by filtration, the solvent was removed by distillation under reduced pressure, and ethyl acetate was added. After any insoluble matters were again removed by filtration, the filtrate was washed first with an aqueous sodium bicarbonate solution and then with a saturated sodium chloride solution, dried over magnesium sulfate and distilled under reduced pressure to remove the solvent, whereupon a crude reaction mixture was obtained. This reaction mixture was purified by silica gel column chromatography (developing solvent: chloroform followed by chloroform:methanol=50:1) to yield 16.5 g of tert-butyl (s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate as a colorless amorphous substance (yield: 89%).

reactant | tert-butoxycarbonyl-L-leucine monohydrate | 9.96 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | N-hydroxy succinimide | 4.6 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 8.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-(diphenylmethyl)piperazine | 10.08 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate | 16.5 g, yield: 89% | C1(=CC=CC=C1)C(N1CCN(CC1)C(=O)[C@H](CC(C)C)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C28H39N3O3
